US05756504
1-(2-Methoxy-4-(-1-((pyrid-3-yl)methyl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide
1-(2-Methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide (110 mg, 0.236 mmole) was dissolved in 3 ml of dry N,N-dimethylformamide. To this solution was added 86 μL (0.496 mmole) of diisopropylethylamine (DIEA) and 43 mg (0.26 mmole) of picolyl chloride. The reaction mixture was stirred at ambient temperature overnight and then was treated with an additional 20 mg of picolyl chloride. The pH of the reaction mixture was adjusted to 9 with DIEA and stirring was continued for 24 hr more. All volatiles were removed under reduced pressure and the residual material was partitioned between ethyl acetate and water. The organic phase was washed with 5% sodium carbonate solution and brine, then dried and concentrated. The crude product mixture was purified via preparative thick layer chromatography on precoated silica gel plates (80:20 chloroform-methanol elution) to give the title compound in homogeneous form: m.p. 78°-81° C.

reactant | 1-(2-Methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide | 0.236 mmole, 110 mg | COC1=C(C=CC(=C1)OC1CCNCC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C26H34N4O4
reactant | diisopropylethylamine | 0.496 mmole, 86 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | picolyl chloride | 0.26 mmole, 43 mg | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | picolyl chloride | 20 mg | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(2-Methoxy-4-(-1-((pyrid-3-yl)methyl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)CC=1C=NC=CC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C32H39N5O4
